US06313153B1
Synthesis of (E)-N-[2-(3,4-dimethoxyphenyl)-2-(hydroxyimino)ethyl]-N-methyl-3-(3-pyridyl)-2-propenoic acid amide (Compound 156)
Acetic acid (3 ml) was added to (E)-N-[2-(3,4-dimethoxyphenyl)-2-oxoethyl]-N-methyl-3-(3-pyridyl)-2-propenoic acid amide (165 mg, 0.5 mmol) and allowed to stand at −20° C. After acetic acid was solidified, 50% aqueous hydroxylamine solution (0.62 ml, 10 mmol) was added under ice-cooling and reacted at the same temperature. After warming to room temperature and reacting for further 22 hours, water (10 ml) and ethyl acetate (10 ml) were added and extracted three times with ethyl acetate (10 ml). The organic layer was washed sequentially with water (40 ml) and aqueous saturated sodium chloride solution (40 ml) and dried over anhydrous magnesium sulfate (10 g). The drying agent was removed out and the filtrate was concentrated. The resulting dry product was purified by a column chromatography using silica gel (20 g) (elution with dichloromethane: methanol=100:3.5). After purification, the product was recrystallized in ethyl acetate (5 ml) and n-hexane (15 ml) to yield the titled compound (91 mg, yield 51%).

reactant | Acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | (E)-N-[2-(3,4-dimethoxyphenyl)-2-oxoethyl]-N-methyl-3-(3-pyridyl)-2-propenoic acid amide | 0.5 mmol, 165 mg | COC=1C=C(C=CC1OC)C(CN(C(\C=C\C=1C=NC=CC1)=O)C)=O | C19H20N2O4
reactant | hydroxylamine | 10 mmol, 0.62 ml | NO | H3NO
reactant | water | 10 ml | O | H2O
solvent | n-hexane | 15 ml | CCCCCC | C6H14
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (E)-N-[2-(3,4-dimethoxyphenyl)-2-(hydroxyimino)ethyl]-N-methyl-3-(3-pyridyl)-2-propenoic acid amide | 91 mg, yield 51% | COC=1C=C(C=CC1OC)C(CN(C(\C=C\C=1C=NC=CC1)=O)C)=NO | C19H21N3O4
